US04927818
To a solution of (Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetic acid (2.74 g) in N,N-dimethylacetamide (45 ml) were added methanesulfonyl chloride (1.15 g) and potassium bicarbonate (1.20 g) under cooling in an ice bath. The mixture was stirred for 2.5 hours at 5° C. and poured into a cold mixture of water (200 ml), ethyl acetate (200 ml) and 1N hydrochloric acid (6 ml). The mixture was stirred for 5 minutes under cooling in an ice bath. The organic layer was separated, washed with cold water (200mlx2) and with a cold saturated aqueous solution of sodium chloride, dried over magnesium sulfate and evaporated. Toluene was added to the residue. To the mixture was added methylene chloride and the mixture was cooled for 10 minutes in an ice bath. The crystals were collected by filtration, washed with methylene chloride and air-dried to give methanesulfonyl (Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetate (1.1 g).

reactant | (Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetic acid | 2.74 g | NC1=NC(=NS1)/C(/C(=O)O)=N/OC(C)(C)C(=O)O | C8H10N4O5S
reactant | methanesulfonyl chloride | 1.15 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium bicarbonate | 1.20 g | C([O-])(O)=O.[K+]
reactant | hydrochloric acid | 1N, 6 ml | Cl | ClH
solvent | N,N-dimethylacetamide | 45 ml | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 200 ml | O | H2O
product | methanesulfonyl (Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetate | 1.1 g | NC1=NC(=NS1)/C(/C(=O)OS(=O)(=O)C)=N/OC(C)(C)C(=O)O | C9H12N4O7S2
